US04018922
106.8 g of (0.8 mole) of aluminum chloride were added to a 2 liter, 3-neck flask and then 800 ml of anhydrous ether were added thereto with strong cooling. The mixture was stirred for 30 minutes and then a suspension of 7.6 g (0.2 mole) of lithium aluminum hydride in 200 ml of ether was added thereto. The mixture was stirred for 30 minutes and then a solution of 93.2 g (0.4 mole) of 8-benzyl-1,4-dioxa-8-aza-spiro [4,5] decane in 400 ml of anhydrous ether was added thereto dropwise. After the addition, stirring was continued at room temperature for 2 hours and 1 liter of water was then slowly added with strong cooling. The mixture was made alkaline with 90 g of sodium hydroxide pellets and the ether phase was decanted off. The aqueous layer was extracted again with ether and the combined ether phases were dried and the ether removed by distillation. The residue was distilled to obtain 63 g (67% yield) of 2-[1-benzyl-4-piperidyloxy]-ethanol in the form of a clear oil boiling at 140° C at 0.1 mm Hg and having a refractive index nD20 = 1.633.

reactant | aluminum chloride | 0.8 mole, 106.8 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | lithium aluminum hydride | 0.2 mole, 7.6 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 8-benzyl-1,4-dioxa-8-aza-spiro [4,5] decane | 0.4 mole, 93.2 g | C(C1=CC=CC=C1)N1CCC2(OCCO2)CC1 | C14H19NO2
reactant | sodium hydroxide | 90 g | [OH-].[Na+]
solvent | ether | 200 ml | CCOCC | C4H10O
solvent | ether | 400 ml | CCOCC | C4H10O
solvent | ether | 800 ml | CCOCC | C4H10O
solvent | water | 1 liter | O | H2O
product | 2-[1-benzyl-4-piperidyloxy]-ethanol | 63 g, 67% yield | C(C1=CC=CC=C1)N1CCC(CC1)OCCO | C14H21NO2
